US07544702B2
2,4-Dichloro-5-methyl-N-{5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridin-2-yl}-benzenesulfonamide (67)
Prepared from 2-amino-5-bromopyridine and 4-(N-piperidinylsulfonyl)thiophenol according to General Method 11 step 1 followed by reaction with 2,4-dichloro-5-methylphenylsulfonyl chloride according to General Method 11 step 2. 1H NMR (CDCl3): 8.35 & 8.02 (2×1H, 2×s, A-ring CH's), 7.63, 7.42 & 7.18 (3×1H, d, s & d, J 10 Hz, B-ring CH's) 7.55 & 7.11 (2×2H, 2×d, 2×J 10 Hz, Ar CH's of C-ring), 2.93-2.81 (4H, m, CH2NCH2), 2.34 (3H, s, CH3), 1.60-1.48 (4H, m, CH2CH2CH2CH2CH2), 1.39-1.27 (2H, m, CH2CH2CH2CH2CH2). Hplc (Luna 2, Gradient 5): rt=6.77 minutes. LC/MS rt=7.44 minutes, 572/574 (MH+).

reactant | 2-amino-5-bromopyridine | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | 4-(N-piperidinylsulfonyl)thiophenol | N1(CCCCC1)S(=O)(=O)C1=CC=C(C=C1)S | C11H15NO2S2
reactant | 2,4-dichloro-5-methylphenylsulfonyl chloride | ClC1=C(C=C(C(=C1)Cl)C)S(=O)(=O)Cl | C7H5Cl3O2S
product | 2,4-Dichloro-5-methyl-N-{5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridin-2-yl}-benzenesulfonamide | ClC1=C(C=C(C(=C1)Cl)C)S(=O)(=O)NC1=NC=C(C=C1)SC1=CC=C(C=C1)S(=O)(=O)N1CCCCC1 | C23H23Cl2N3O4S3
